US05658935
c) Synthesis of 4-[4-(aminoiminomethyl)benzyl]-3,3-bisethoxycarbonylbutyric acid hydrochloride
11.34 g of ethyl 4-[4-(aminoiminomethyl)benzyl]-3,3-bisethoxycarbonylbutyrate hydrochloride are stirred in 250 ml of 6N HCl at 40° C. for 1 h and at 80° C. for 2 h. The mixture is then allowed to stand overnight at room temperature and is concentrated to dryness in vacuo. The residue is taken up in a little water and freeze-dried.

reactant | ethyl 4-[4-(aminoiminomethyl)benzyl]-3,3-bisethoxycarbonylbutyrate hydrochloride | 11.34 g | Cl.NN=CC1=CC=C(CCC(CC(=O)OCC)(C(=O)OCC)C(=O)OCC)C=C1
solvent | HCl | 6N, 250 ml | Cl | ClH
product | 4-[4-(aminoiminomethyl)benzyl]-3,3-bisethoxycarbonylbutyric acid hydrochloride | Cl.NN=CC1=CC=C(CCC(CC(=O)O)(C(=O)OCC)C(=O)OCC)C=C1 | InChI=1S/C18H24N2O6.ClH/c1-3-25-16(23)18(11-15(21)22,17(24)26-4-2)10-9-13-5-7-14(8-6-13)12-20-19;/h5-8,12H,3-4,9-11,19H2,1-2H3,(H,21,22);1H
